US04297365
7 g of 1-amino-2-nitro-4-(4-methyl-2-isobutylamino-5-thiazoloyl)-benzene are reduced with 40 g of stannous chloride in 150 ml of acetic acid analogously to Example 1. Oily 1,2-diamino-4-(4-methyl-2-isobutylamino-5-thiazoloyl)-benzene is obtained and this is used in the following step.

reactant | 1-amino-2-nitro-4-(4-methyl-2-isobutylamino-5-thiazoloyl)-benzene | 7 g | NC1=C(C=C(C=C1)C(=O)C1=C(N=C(S1)NCC(C)C)C)[N+](=O)[O-] | C15H18N4O3S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,2-diamino-4-(4-methyl-2-isobutylamino-5-thiazoloyl)-benzene | NC1=C(C=C(C=C1)C(=O)C1=C(N=C(S1)NCC(C)C)C)N | C15H20N4OS
